US09290485B2
b) Methyl 2-(6-amino-3-(aminomethyl)-2-methylpyridin-4-yloxy)acetate
Methyl 2-(6-amino-3-cyano-2-methylpyridin-4-yloxy)acetate (215 mg, 0.972 mmol) was dissolved in EtOH (16 ml), MeOH (8 ml) and HCl 1M (5 ml), then Palladium on carbon (310 mg, 0.292 mmol) was added and the reaction mixture was stirred at it under H2 pressure during 48 h. After filtration over celite, washing with MeOH and evaporation of the solvent, the title compound was obtained. MS (Method D): [M+H]+226.0/451.2.

reactant | Methyl 2-(6-amino-3-cyano-2-methylpyridin-4-yloxy)acetate | 0.972 mmol, 215 mg | NC1=CC(=C(C(=N1)C)C#N)OCC(=O)OC | C10H11N3O3
reactant | MeOH | 8 ml | CO | CH4O
reactant | HCl | 1M, 5 ml | Cl | ClH
solvent | EtOH | 16 ml | CCO | C2H6O
catalyst | Palladium on carbon | 0.292 mmol, 310 mg | [Pd] | Pd
product | Methyl 2-(6-amino-3-(aminomethyl)-2-methylpyridin-4-yloxy)acetate | NC1=CC(=C(C(=N1)C)CN)OCC(=O)OC | C10H15N3O3
